US09227985B2
N-Bromosuccinimide (60 mg, 0.3 mmol) was added to a solution of 4-methyl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (90 mg, 0.3 mmol), acetic acid (6 mL) and acetonitrile (6 mL) at 0° C. The reaction mixture was stirred for 1 h at 0° C., quenched with water, and was concentrated to give the crude product. The crude product was dissolved in ethyl acetate and washed with saturated aqueous sodium bicarbonate. The combined organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated to give a dark oil. The product was purified by FCC on silica gel eluting a hexane:ethyl acetate gradient containing 20% ethanol to give 7-bromo-4-methyl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one as an off white solid (0.090 g. 80%). LCMS calculated for C15H13BrN3O2 (M+H)+: m/z=346.1, 348.1. found: 345.9, 347.9.

reactant | N-Bromosuccinimide | 0.3 mmol, 60 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-methyl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 0.3 mmol, 90 mg | CC1(COC2=C3N1C(NC3=CC=C2)=O)C2=NC=CC=C2 | C15H13N3O2
reactant | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
reactant | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-bromo-4-methyl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | BrC1=CC=C2C=3N(C(COC31)(C3=NC=CC=C3)C)C(N2)=O | C15H12BrN3O2
